US08309718B2
Step 1: 3-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (10.0 g, 0.0515 mol) in acetonitrile (129 mL, 2.46 mol) was added (E)-3-cyclopropylacrylonitrile (5.75 g, 0.0617 mol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (3.85 mL, 0.0258 mol). The resulting mixture was stirred at room temperature overnight, and evaporated to dryness. The mixture was purified on silica gel, eluting with 0 to 80% EtOAc in hexanes, to give the desired product as racemic mixture (10.8 g, 73.0%). LCMS (M+H) 288.4.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0515 mol, 10.0 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | acetonitrile | 2.46 mol, 129 mL | C(C)#N | C2H3N
reactant | (E)-3-cyclopropylacrylonitrile | 0.0617 mol, 5.75 g | C1(CC1)/C=C/C#N | C6H7N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0258 mol, 3.85 mL | N12CCCCCC2=NCCC1 | C9H16N2
product | 3-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile | C1(CC1)C(CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H22BN3O2
